US06184388B2
Trans-1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-hydroxymethylpyrrolidine
Under a nitrogen atmosphere, lithium aluminum hydride (381 mg, 9.54 mmol) was suspended in anhydrous tetrahydrofuran (30 ml) to which, while cooling in an ice bath, was subsequently added dropwise an anhydrous tetrahydrofuran (10 ml) solution of ethyl trans-1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)pyrrolidine-3-carboxylate (1.24 g, 3.18 mmol) over a period of 15 minutes. After 4 hours of stirring at the same temperature, ice-cooled water was gradually added to the reaction solution. The reaction suspension was subjected to celite filtration (chloroform washing) to separate the organic layer. The aqueous layer was extracted with chloroform (50 ml×2), and the organic layers were combined and dried over anhydrous sodium sulfate. By evaporating the solvent, 1.12 g (>99%) of the title compound was obtained.

reactant | lithium aluminum hydride | 9.54 mmol, 381 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl trans-1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)pyrrolidine-3-carboxylate | 3.18 mmol, 1.24 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1(CC1)NC(=O)OC(C)(C)C)C(=O)OCC | C22H32N2O4
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Trans-1-benzyl-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-hydroxymethylpyrrolidine | 1.12 g, >99% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1(CC1)NC(=O)OC(C)(C)C)CO | C20H30N2O3
